US08530520B2
3-(2-Hydroxyethyl)benzaldehyde (13).
A mixture 2-(3-bromophenyl)ethanol (1.00 g, 0.67 mL, 4.9 mmol) and N,N,N′,N′-tetramethylethylenediamine (1.5 mL) in anhydrous diethyl ether (10 mL) was cooled to −78° C. in a dry-ice acetone bath. n-Butyl lithium (2.4 M solution in hexanes, 4.0 mL, 9.8 mmol) was added dropwise and the resulting mixture was allowed to warm to −20° C. (over 1 h) and then cooled again to −78° C. Anhydrous N,N-dimethylformamide (5 mL) was added and the resulting mixture was allowed to reach room temperature and stirred for an additional 1 h. The reaction mixture was quenched with a saturated solution of ammonium chloride and the aqueous portion was extracted with ethyl acetate. The combined extracts were washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by silica gel column chromatography using ethyl acetate-hexanes 2:3 as eluent to provide the desired compound as colorless oil. Yield: 88%.

reactant | 2-(3-bromophenyl)ethanol | 4.9 mmol, 0.67 mL, 1.00 g | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | N,N,N′,N′-tetramethylethylenediamine | 1.5 mL | CN(CCN(C)C)C | C6H16N2
reactant | n-Butyl lithium | 9.8 mmol, 2.4 M, 4.0 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 3-(2-Hydroxyethyl)benzaldehyde | Yield: 88% | OCCC=1C=C(C=O)C=CC1 | C9H10O2
